US04065290
Benary and Bitter, Ber. 61, 1058 (1928) taught the synthesis of an intermediate disodium salt of 1,5-dihydroxy-2,4-diphenyl-1,4-pentadien-3-one by the condensation of 1,3-diphenyl-2-propanone with ethyl formate in the presence of sodium methoxide. The intermediate pentadienone is neutralized with strong acid to form 3,5-diphenyl-4-pyrone. Reaction of the pyrone with ammonium acetate at an elevated temperature produces 3,5-diphenyl-4(1H)-pyridinone.

reactant | disodium | [Na][Na] | 2Na
reactant | 1,5-dihydroxy-2,4-diphenyl-1,4-pentadien-3-one | OC=C(C(C(=CO)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H14O3
reactant | 1,3-diphenyl-2-propanone | C1(=CC=CC=C1)CC(CC1=CC=CC=C1)=O | C15H14O
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | pentadienone | CC(C=C=C)=O | C5H6O
product | 3,5-diphenyl-4-pyrone | C1(=CC=CC=C1)C1=COC=C(C1=O)C1=CC=CC=C1 | C17H12O2
